US08541363B2
To a solution of (S)-2-((S)-2-Amino-3-phenyl-propionylamino)-propionic acid ethyl ester.trifluoroacetate salt (10 g, 37.9 mmol) and DIPEA (19.5 mL, 113.6 mmol) in DCM (100 mL) was added benzoyl chloride (4.0 mL, 34.1 mmol) at −20° C. and stirred at −20° C. for 1 h. The reaction mixture was filtered to remove salts and the filtrate was washed with 10% citric acid solution (2×50 mL), 5% NaHCO3 solution (2×50 mL) and brine solution (50 mL) respectively, dried over Na2SO4, filtered and concentrated in vacuo to give a residue that was dissolved in CHCl3 (20 mL) and triturated with n-pentane. The precipitated solid was filtered and washed with a mixture of Et2O and n-pentane (50 mL, 1:1), then dried to obtain (S)-2-((S)-2-Benzoylamino-3-phenyl-propionylamino)-propionic acid ethyl ester (6.5 g, 47%) as a white solid. Rf: 0.8 (10% MeOH/CHCl3); 1H NMR (400 MHz, DMSO-d6): δ 8.60-8.55 (1H, m), 7.76 (2H, d, J=6.8 Hz), 7.52-7.35 (5H, m), 7.27 (2H, t, J=7.6 Hz), 7.18 (1H, t, J=7.6 Hz), 4.80-4.70 (1H, m), 4.30-4.22 (1H, m), 4.07 (2H, q), 3.11 (1H, dd, J=4, 14 Hz), 3.01-2.98 (1H, m), 1.34 (3H, d, J=7.2 Hz), 1.18 (3H, t, J=6.8 Hz); m/z 369 (MH)+.

reactant | (S)-2-((S)-2-Amino-3-phenyl-propionylamino)-propionic acid ethyl ester | C(C)OC([C@H](C)NC([C@H](CC1=CC=CC=C1)N)=O)=O | C14H20N2O3
reactant | trifluoroacetate | 37.9 mmol, 10 g | FC(C(=O)[O-])(F)F
reactant | DIPEA | 113.6 mmol, 19.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzoyl chloride | 34.1 mmol, 4.0 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | (S)-2-((S)-2-Benzoylamino-3-phenyl-propionylamino)-propionic acid ethyl ester | 6.5 g, 47% | C(C)OC([C@H](C)NC([C@H](CC1=CC=CC=C1)NC(C1=CC=CC=C1)=O)=O)=O | C21H24N2O4
